US06022894
Sodium hydride (60% suspension in mineral oil, 60 mg, 1.59 mmol) was added to a solution of trans-2-cyanocyclohexanol in N,N-dimethylformamide (2.0 mL) and stirred for 10 minutes at room temperature. Epibromohydrin (0.22 g, 1.59 mmol) was then added and the reaction stirred for an additional 3 hours. The solution was partitioned between diethyl ether/water, and the layers separated. The ether layer was washed with water (3×100 mL) and dried over magnesium sulfate and evaporated to give 0.17 g of 2-cyanocyclohexyl glycidyl ether.

reactant | Sodium hydride | 1.59 mmol, 60 mg | [H-].[Na+]
reactant | trans-2-cyanocyclohexanol | C(#N)[C@H]1[C@@H](CCCC1)O | C7H11NO
reactant | Epibromohydrin | 1.59 mmol, 0.22 g | C(Br)C1CO1 | C3H5BrO
solvent | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
product | 2-cyanocyclohexyl glycidyl ether | 0.17 g | C(C1CO1)OC1C(CCCC1)C#N | C10H15NO2
